US05654320
Preparation of N-[2-(4-morpholinyl)ethyl]-1H-indazole-3-carboxamide
Same procedure followed as described in Example 1. The following amounts were used: 1H-indazole-3-carboxylic acid (0.65 g, 4 mmol), 1,1'-carbonyldiimidazole (0.65 g, 4 mmol) and 4-(2-aminoethyl)morpholine (0.52 mL, 4 mmol). The ethyl acetate extracts were evaporated to 0.468 g solid. Crystallization from ethyl acetate provided 0.267 g colorless crystals. Mass spectrum, m+ =274.

reactant | 1H-indazole-3-carboxylic acid | 4 mmol, 0.65 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | 1,1'-carbonyldiimidazole | 4 mmol, 0.65 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(2-aminoethyl)morpholine | 4 mmol, 0.52 mL | NCCN1CCOCC1 | C6H14N2O
product | N-[2-(4-morpholinyl)ethyl]-1H-indazole-3-carboxamide | 0.267 g | N1(CCOCC1)CCNC(=O)C1=NNC2=CC=CC=C12 | C14H18N4O2
